US04214890
To a dry stirred solution of 18 parts of methyl (2-amino-6-methylpyrimidin-4-yloxy)acetate in 300 parts of methylene chloride at ambient temperature was added 20 parts of 2-thiophenesulfonylisocyanate. The solution was allowed to stand for 3 hours and was then poured onto ice. The pH of the aqueous layer was adjusted to 11 with sodium hydroxide solution and the methylene chloride layer was separated therefrom. The aqueous layer was neutralized with aqueous hydrochloric acid and then extracted with methylene chloride. The extract was dried and stripped of solvent to yield 8 parts of methyl [6-methyl-2-[(2-thienylsulfonyl)aminocarbonylamino]pyrimidin-4-yloxy]acetate, m.p. 114°-120°.

reactant | methyl (2-amino-6-methylpyrimidin-4-yloxy)acetate | NC1=NC(=CC(=N1)OCC(=O)OC)C | C8H11N3O3
reactant | 2-thiophenesulfonylisocyanate | S1C(=CC=C1)S(=O)(=O)N=C=O | C5H3NO3S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl [6-methyl-2-[(2-thienylsulfonyl)aminocarbonylamino]pyrimidin-4-yloxy]acetate | CC1=CC(=NC(=N1)NC(=O)NS(=O)(=O)C=1SC=CC1)OCC(=O)OC | C13H14N4O6S2
